US08686018B2
5-(3,4-dichlorophenoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid
The title compound was prepared using 5-chloro-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde and 3,4-dichlorophenol in the manner similar to the method in Production Example 1 above except potassium carbonate was used instead of potassium hydroxide.

reactant | 5-chloro-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde | ClC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4ClF3N2O
reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-(3,4-dichlorophenoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid | ClC=1C=C(OC2=C(C(=NN2C)C(F)(F)F)C(=O)O)C=CC1Cl | C12H7Cl2F3N2O3
